US06982348B2
7) 1-bromo-4-methyl-6,7-dihydro-5H-benzo[a]cycloheptene
A solution of 4-bromo-1-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol (6.213 g, 24.35 mmol) and p-toluenesulfonic acid monohydrate (0.46 g, 2.44 mmol) in toluene (100 ml) was heated under reflux in a reaction vessel equipped with a Dean-Stark trap under dehydrating conditions for 0.5 hr. After the reaction solution was cooled to room temperature, the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane) to give the objective substance.

reactant | 4-bromo-1-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol | 24.35 mmol, 6.213 g | BrC1=CC=C(C2=C1C(CCCC2)O)C | C12H15BrO
reactant | p-toluenesulfonic acid monohydrate | 2.44 mmol, 0.46 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-4-methyl-6,7-dihydro-5H-benzo[a]cycloheptene | BrC1=CC=C(C2=C1C=CCCC2)C | C12H13Br
